US07375227B2
170C. 1-{2-[3-(3-Biphenyl-2-yl-1-methyl-ureido)-pyrrolidin-1-yl]-ethyl}-3-(2-methyl-quinolin-4-yl)-urea
To a solution of 1-[2-(3-methylamino-pyrrolidin-1-yl)-ethyl]-3-(2-methyl-quinolin-4-yl)-urea (0.03 mmol) in THF (0.3 mL) is added a solution of 2-biphenyl isocyanate (0.09 mmol) in THF (0.6 mL). The reaction is allowed to stir for 18 h, and then is quenched with water (0.1 mL), and stirred for an additional 0.5 h. The reaction mixture is evaporated. The residue is taken up in a mixture of formic acid/TFA (1:1; 1 mL), and purified by preparative HPLC.

reactant | 1-[2-(3-methylamino-pyrrolidin-1-yl)-ethyl]-3-(2-methyl-quinolin-4-yl)-urea | 0.03 mmol | CNC1CN(CC1)CCNC(=O)NC1=CC(=NC2=CC=CC=C12)C | C18H25N5O
reactant | 2-biphenyl isocyanate | 0.09 mmol | C1=CC=C(C=C1)C2=CC=CC=C2N=C=O | C13H9NO
solvent | THF | 0.3 mL | C1CCOC1 | C4H8O
solvent | THF | 0.6 mL | C1CCOC1 | C4H8O
product | 1-{2-[3-(3-Biphenyl-2-yl-1-methyl-ureido)-pyrrolidin-1-yl]-ethyl}-3-(2-methyl-quinolin-4-yl)-urea | C1(=C(C=CC=C1)NC(N(C)C1CN(CC1)CCNC(=O)NC1=CC(=NC2=CC=CC=C12)C)=O)C1=CC=CC=C1 | C31H34N6O2
